US08530476B2
4-(3,4-Dibromo-benzyl)-piperazine-1-carboxylic acid methyl-phenyl-amide
To a solution of 4-(3,4-dibromo-benzyl)-piperazine-1-carboxylic acid phenylamide (0.02 g) in DMF (0.6 mL) was added NaH (60% dispersion in oil; 3 mg) in one portion. The resulting mixture was allowed to stir for 30 min, then was treated with MeI (0.005 mL), and was stirred at rt for 12 h. The mixture was concentrated and the residue was purified by column chromatography (5% MeOH/DCM), giving the product as a white solid (0.015 g). 1H NMR (400 MHz, CDCl3): 7.54-7.50 (m, 2H), 7.33-7.31 (m, 2H), 7.12-7.05 (m, 4H), 3.34 (s, 2H), 3.22-3.20 (m, 6H), 2.23-2.21 (m, 4H), 1.63 (s, 3H).

reactant | 4-(3,4-dibromo-benzyl)-piperazine-1-carboxylic acid phenylamide | 0.02 g | C1(=CC=CC=C1)NC(=O)N1CCN(CC1)CC1=CC(=C(C=C1)Br)Br | C18H19Br2N3O
reactant | NaH | 3 mg | [H-].[Na+]
reactant | MeI | 0.005 mL | CI | CH3I
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
product | 4-(3,4-Dibromo-benzyl)-piperazine-1-carboxylic acid methyl-phenyl-amide | 0.015 g | CN(C(=O)N1CCN(CC1)CC1=CC(=C(C=C1)Br)Br)C1=CC=CC=C1 | C19H21Br2N3O
